US06884868B1
A mixture of 1-acetyl-4-(4-hydroxyphenyl)piperazine (5.00 g) in N,N-dimethylformamide (50 ml) was treated with 1,6-dibromohexane (10.5 ml) and potassium carbonate (4.71 g), and the mixture was stirred for 18 hours at ambient temperature. To the reaction mixture was added water (200 ml), and the resulting precipitate was collected by filtration, washed with water and n-hexane successively and dried under reduced pressure to give crude 1-acetyl-4-[4-(6-bromohexyloxy)phenyl]piperazine (10.52 g), that was used in the next reaction directly.

reactant | 1-acetyl-4-(4-hydroxyphenyl)piperazine | 5.00 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C12H16N2O2
reactant | 1,6-dibromohexane | 10.5 ml | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 4.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-acetyl-4-[4-(6-bromohexyloxy)phenyl]piperazine | 10.52 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCCCCCBr | C18H27BrN2O2
